US05155108
A mixture of 3-bromo-2,2-diethyl-1-propanol (23.3 g), potassium thiocyanate (17.5 g) and dimethylformamide (80 ml) was stirred for 7 hours at 130° C. The reaction solution was cooled to room temperature, to which a mixture of diethyl ether (50 ml) and water (100 ml) were added. The ethernal layer was collected. The aqueous layer was extracted with 80 ml of diethyl ether. The combined ethernal layers were washed with a saturated saline, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was distilled under reduced pressure to obtain 3-hydroxy-2,2-diethyl-1-propylthiocyanate (20.4 g) as oil.

reactant | 3-bromo-2,2-diethyl-1-propanol | 23.3 g | BrCC(CO)(CC)CC | C7H15BrO
reactant | potassium thiocyanate | 17.5 g | [S-]C#N.[K+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 3-hydroxy-2,2-diethyl-1-propylthiocyanate | 20.4 g | OCC(CSC#N)(CC)CC | C8H15NOS
